US04547501
4-Chloro-[1,2,4]triazolo-[4,3-a]quinoxaline (2.0 g., 0.01 mole), the product of Example 2, in N,N-dimethyl formamide (30 ml.) was saturated with monomethylamine gas and stirred at room temperature for 3 hours. Monomethylamine gas was again bubbled into the solution and the solution was stirred at room temperature for an additional 2 hours. The precipitate was separated by filtration and washed with N,N-dimethylformamide. Recrystallization from N,N-dimethylformamide gave 1.37 g. (69% yield) of 4-methylamino-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. >300° C. Mass spectrum: m/e, 199 (P).

reactant | 4-Chloro-[1,2,4]triazolo-[4,3-a]quinoxaline | 0.01 mole, 2.0 g | ClC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C9H5ClN4
reactant | monomethylamine | CN | CH5N
solvent | N,N-dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-methylamino-[1,2,4]triazolo[4,3-a]quinoxaline | 69% yield | CNC=1C=2N(C3=CC=CC=C3N1)C=NN2 | C10H9N5
